US06919322B2
A mixture of diethyl 5-iodo-2-furanphosphonate (1 mmol), 4-fluorophenylboronic acid (2 mmol), diisopropylethylamine (DIEA) (4 mmol) and bis(acetonitrile)dichloropalladium(II) (0.05 mmol) in 6 mL DMF was heated at 75° C. for 16 h. Extraction and chromatography provided diethyl 5-(4-fluorophenyl)-2-furanphosphonate as an oil.

reactant | diethyl 5-iodo-2-furanphosphonate | 1 mmol | IC1=CC=C(O1)P(OCC)(=O)OCC | C8H12IO4P
reactant | 4-fluorophenylboronic acid | 2 mmol | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | diisopropylethylamine | 4 mmol | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
catalyst | bis(acetonitrile)dichloropalladium(II) | 0.05 mmol | CC#N.CC#N.Cl[Pd]Cl
product | diethyl 5-(4-fluorophenyl)-2-furanphosphonate | FC1=CC=C(C=C1)C1=CC=C(O1)P(OCC)(=O)OCC | C14H16FO4P
